US08937068B2
Manufacture of 1-ethyl-3-(3-o-tolylamino-pyrido[2,3-b]-pyrazine-6-yl)-urea (Conversion According to Diagram 3)
55 mg 1-(3-chlor-pyrido[2,3-b]pyrazine-6-yl)-3-ethyl-urea (0.22 mmol), 60 mg o-toluidine (0.56 mmol), 33 mg sodium-tert.-butylate(0.33 mmol), 29 mg tris(dibenzalacetone)palladium(0) (0.03 mmol) and 78 mg 2-(dicyclohexylphosphanyl)biphenyl (0.22 mmol) were presented in 1.5 ml predried toluene in a microwave reaction vessel under nitrogen as protective gas. The reaction mass was heated in the microwave at 100° C. (100 watt) for 30 minutes. Then the volatile components were removed in vacuum and the raw product was cleaned using column chromatography on silica gel (solvent dichloromethane/methanol). A yellow solid was obtained.

reactant | 1-(3-chlor-pyrido[2,3-b]pyrazine-6-yl)-3-ethyl-urea | 0.22 mmol, 55 mg | ClC1=CN=C2C(=N1)N=C(C=C2)NC(=O)NCC | C10H10ClN5O
reactant | o-toluidine | 0.56 mmol, 60 mg | NC=1C(=CC=CC1)C | C7H9N
reactant | 2-(dicyclohexylphosphanyl)biphenyl | 0.22 mmol, 78 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-ethyl-3-(3-o-tolylamino-pyrido[2,3-b]-pyrazine-6-yl)-urea | C(C)NC(=O)NC=1C=CC=2C(=NC(=CN2)NC2=C(C=CC=C2)C)N1 | C17H18N6O
